US09085570B2
To a solution of 2-(pyridin-3-yl)ethanamine (940 mg, 7.70 mmol, 5.00 equiv), 4-(4-((1-(tert-butoxycarbonyl)piperidin-4-ylsulfonyl)methyl)-5-methyloxazol-2-yl)benzoic acid (700 mg, 1.51 mmol, 1.00 equiv), HOBt (250 mg, 1.85 mmol, 1.20 equiv), EDCI (350 mg, 1.83 mmol, 1.20 equiv) in N,N-dimethylformamide (20 mL) at 30° C. was added triethylamine (460 mg, 4.55 mmol, 3.00 equiv) dropwise with stirring. The reaction mixture was stirred at 30° C. overnight and then quenched by the addition of 30 mL of water/ice. The precipitate was collected by filtration, washed with water and dried in a vacuum oven to give 840 mg (98%) of tert-butyl 4-((2-(4-((2-(pyridin-3-yl)ethyl)carbamoyl)phenyl)-5-methyloxazol-4-yl)methylsulfonyl)piperidine-1-carboxylate as a yellow solid. LC-MS: (ES, m/z): 569 [M+H]+, 469, 361, 320, 169, 126. 1HNMR (400 MHz, DMSO-d6, ppm) δ 8.73 (s, 1H), 8.50-8.45 (d, 2H), 7.99-7.94 (d, 5H), 7.74 (s, 1H), 7.38 (s, 1H), 4.54 (s, 3H), 4.07 (s, 3H), 3.54 (s, 3H), 2.90 (m, 6H), 2.50-2.45 (s, 6H), 2.11 (s, 3H), 1.48-1.41 (s, 16H).

reactant | 2-(pyridin-3-yl)ethanamine | 7.70 mmol, 940 mg, 5.00 equiv | N1=CC(=CC=C1)CCN | C7H10N2
reactant | 4-(4-((1-(tert-butoxycarbonyl)piperidin-4-ylsulfonyl)methyl)-5-methyloxazol-2-yl)benzoic acid | 1.51 mmol, 700 mg, 1.00 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)S(=O)(=O)CC=1N=C(OC1C)C1=CC=C(C(=O)O)C=C1 | C22H28N2O7S
reactant | HOBt | 1.85 mmol, 250 mg, 1.20 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.83 mmol, 350 mg, 1.20 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 4.55 mmol, 460 mg, 3.00 equiv | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-((2-(4-((2-(pyridin-3-yl)ethyl)carbamoyl)phenyl)-5-methyloxazol-4-yl)methylsulfonyl)piperidine-1-carboxylate | 840 mg, 98% | N1=CC(=CC=C1)CCNC(=O)C1=CC=C(C=C1)C=1OC(=C(N1)CS(=O)(=O)C1CCN(CC1)C(=O)OC(C)(C)C)C | C29H36N4O6S
